US08466290B2
Acetic anhydride (1 mL) was added to a pyridine (10 mL)) solution of 2-(2-hydroxyphenyl)-4-quinolinecarboxylic acid benzyl ester (1.09 g, 3.07 mmol) obtained above, and the mixture was stirred at room temperature for 7 hours. The reaction solution was concentrated, and then, the residue was purified by silica gel column chromatography to obtain 2-(2-acetoxyphenyl)-4-quinolinecarboxylic acid benzyl ester (940 mg, 2.34 mmol).

reactant | Acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(2-hydroxyphenyl)-4-quinolinecarboxylic acid benzyl ester | 3.07 mmol, 1.09 g | C(C1=CC=CC=C1)OC(=O)C1=CC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O | C23H17NO3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-acetoxyphenyl)-4-quinolinecarboxylic acid benzyl ester | 2.34 mmol, 940 mg | C(C1=CC=CC=C1)OC(=O)C1=CC(=NC2=CC=CC=C12)C1=C(C=CC=C1)OC(C)=O | C25H19NO4
